US07439232B2
Next, a mixture of 2-benzyloxy-3-(4-ethylbenzyl)pyrazine (420 mg, 1.38 mmol), 10% palladium carbon (40 mg) and ethanol (5 mL) was stirred under a hydrogen atmosphere for 18 hours. After filtration to remove the insoluble materials, the filtrate was purified by silica gel column chromatography (hexane:ethyl acetate=1:2) to give 3-(4-ethylbenzyl)-1H-pyrazin-2-one (120 mg, 40%) as a yellow crystal.

reactant | 2-benzyloxy-3-(4-ethylbenzyl)pyrazine | 1.38 mmol, 420 mg | C(C1=CC=CC=C1)OC1=NC=CN=C1CC1=CC=C(C=C1)CC | C20H20N2O
catalyst | palladium carbon | 40 mg | [C].[Pd]
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 3-(4-ethylbenzyl)-1H-pyrazin-2-one | 120 mg, 40% | C(C)C1=CC=C(CC=2C(NC=CN2)=O)C=C1 | C13H14N2O
